Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Motor vehicle collision
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___, 17 weeks pregnant, presents to the ED from ___ with
neck pain s/p MVC. The patient was the restrained driver
involved in a 2 vehicle MVA this morning. She was traveling
on 495 when another vehicle hit her estimated to have been
going about 80mph, after which she spun out and collided
with a tree. She was able to self-extricate from the vehicle
and was ambulatory on scene, complaining of L sided neck
pain and abdominal pain. MRI at OSH showed C7 edema
concerning for a possible contusion as well as a L sided
muscular strain. Negative for displaced fracture, but
inconclusive for a non-displaced fracture. Abd US showed an
age-appropriate, single, live IUP with HR to 149 with
concern for possible anterior abruption. Her abdominal pain
has since resolved. She denies any vaginal bleeding or
discharge, other injuries, other pain, or any other sx at
this time.
 
Past Medical History:
None
 
Social History:
___
Family History:
None contributory
 
Physical Exam:
General: NAD, alert and oriented x3
Neck: With c-collar in place
Pulmonary: Clear to auscultation bilaterally, no increased work 
of breathing
Cardiovascular: RRR
Abdomen soft, gravid abdomen, nontender, no rebound or guarding
Extremities: Warm, well-perfused, without edema
 
Pertinent Results:
___ 07:00PM   GLUCOSE-82 UREA N-5* CREAT-0.5 SODIUM-139 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-22 ANION GAP-11
___ 07:00PM   CALCIUM-9.2 PHOSPHATE-4.2 MAGNESIUM-1.9
___ 07:00PM   WBC-7.1 RBC-3.40* HGB-10.1* HCT-30.4* MCV-89 
MCH-29.7 MCHC-33.2 RDW-12.9 RDWSD-41.9
___ 07:00PM   PLT COUNT-190
___ 07:00PM   ___ PTT-26.5 ___
___ 09:00AM URINE  HOURS-RANDOM
___ 09:00AM URINE  UCG-POSITIVE*
___ 09:00AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:00AM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 09:00AM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:00AM URINE  RBC-10* WBC-4 BACTERIA-FEW* YEAST-NONE 
EPI-18
___ 09:00AM URINE  MUCOUS-RARE*
___ 08:20AM   WBC-7.0 RBC-3.26* HGB-9.7* HCT-29.2* MCV-90 
MCH-29.8 MCHC-33.2 RDW-12.9 RDWSD-42.2
___ 08:20AM   PLT COUNT-178
___ 05:17AM   GLUCOSE-83 UREA N-4* CREAT-0.5 SODIUM-140 
POTASSIUM-3.7 CHLORIDE-107 TOTAL CO2-22 ANION GAP-11
___ 05:17AM   estGFR-Using this
___ 05:17AM   CALCIUM-8.8 PHOSPHATE-4.2 MAGNESIUM-1.9
___ 05:17AM   WBC-8.0 RBC-3.35* HGB-9.8* HCT-29.9* MCV-89 
MCH-29.3 MCHC-32.8 RDW-13.1 RDWSD-42.5
___ 05:17AM   PLT COUNT-167
___ 05:17AM   ___ PTT-26.6 ___
___ 01:20AM   WBC-9.4 RBC-3.13* HGB-9.4* HCT-27.6* MCV-88 
MCH-30.0 MCHC-34.1 RDW-13.0 RDWSD-41.1
___ 01:20AM   WBC-9.4 RBC-3.13* HGB-9.4* HCT-27.6* MCV-88 
MCH-30.0 MCHC-34.1 RDW-13.0 RDWSD-41.1
___ 01:20AM   PLT COUNT-172
___ 06:51PM   ___ COMMENTS-GREEN TOP 
___ 06:51PM   GLUCOSE-97 LACTATE-1.1 CREAT-0.5 NA+-142 
K+-3.3* CL--106 TCO2-21
___ 06:51PM   GLUCOSE-97 LACTATE-1.1 CREAT-0.5 NA+-142 
K+-3.3* CL--106 TCO2-21
___ 06:45PM   UREA N-4*
___ 06:45PM   LIPASE-23
___ 06:45PM   WBC-8.4 RBC-3.33* HGB-9.9* HCT-29.1* MCV-87 
MCH-29.7 MCHC-34.0 RDW-12.9 RDWSD-40.8
___ 06:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 06:45PM   NEUTS-75.5* LYMPHS-16.4* MONOS-7.4 EOS-0.4* 
BASOS-0.1 IM ___ AbsNeut-6.33* AbsLymp-1.38 AbsMono-0.62 
AbsEos-0.03* AbsBaso-0.01
___ 06:45PM   PLT COUNT-185
___ 06:45PM   ___ PTT-24.8* ___
 
Brief Hospital Course:
Mrs. ___ is an ___ female patient that was admitted to 
the hospital as a transfer from an outside hospital after being 
involved in a motor vehicle collision where she was restrained 
driver, no loss of consciousness.  At the outside hospital she 
was found to have C7 cord edema.  Upon her arrival, she 
underwent neurological workup and the images from the outside 
hospital open (MRI) were reviewed.  She was found not to have 
any neurological deficits and no compressive pathology on 
imaging.  She was placed on a c-collar for comfort and for 
stabilization.  She was admitted to the hospital for 
observation.

During her hospital stay she progressed appropriately and her 
pain was well controlled.  On day of discharge she reports 
having no neurological symptoms, is tolerating a regular diet, 
reports the pain is well controlled, has vital signs within 
normal limits, feels well.  She is being discharged in good 
condition.
 
Medications on Admission:
Zofran and Tylenol
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
take 1 every 6 hours with pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ MVC and C7 edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ for 
motor vehicle collision and underwent imaging and observation 
during your hospitalization. You are recovering well and are now 
ready for discharge. Please follow the instructions below to 
continue your recovery:

Please wear neck brace for 2 weeks until cleared by your surgeon 
at your ___ clinic visit.  You may take the neck brace off 
to eat and to shower.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience any weakness of your arms or legs, any decreased 
sensation, or tingling numbness of your fingers or toes.
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 

 
Followup Instructions:
___